US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (4.0 g, 11.7 mmol) and 2-amino-4-(methyloxy)benzamide (4.5 g, 26.8 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4-(methyloxy)benzamide was isolated as a yellow solid (0.1.58 g, 29% yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.33 (s, 3 H), 4.28 (s, 3 H), 6.62 (t, J=3.48 Hz, 1 H), 6.68 (ddd, J=6.00, 2.88, 2.66 Hz, 1 H), 7.41-7.46 (m, 2 H), 7.64 (s, 1 H), 7.74 (t, J=3.48 Hz, 1 H), 7.81-7.87 (m, 1 H), 7.92-7.98 (m, 2 H), 8.22 (s, 1 H), 8.32 (t, J=2.66 Hz, 1 H), 13.13 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 11.7 mmol, 4.0 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-4-(methyloxy)benzamide | 26.8 mmol, 4.5 g | NC1=C(C(=O)N)C=CC(=C1)OC | C8H10N2O2
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4-(methyloxy)benzamide | 29% yield | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=CC(=C2)OC | C21H18ClN5O4S
